US07153878B2
To a solution of 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-2-phenyl-ethanone (1.2 g, 3.5 mmol) in 50 mL MeOH at 0° C. is added LiBH4 (0.086 g, 3.50 mmol) portionwise. After gas evolution had ceased a tic indicated that the reaction is complete and 50 mL of NH4Cl (aq.) is added and the resultant solution extraxted with ethyl acetate (3×50 mL). The combined organics are dried (Na2SO4), filtered and concentrated under vacuo. The resultant crude oil is purified by flash column chromatography (10%–20%) ethyl acetate/hexane to provide 1.1 g 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-2-phenyl-ethanol. To a solution of 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-2-phenyl-ethanol (0.50 g, 1.44 mmol), 3-(4-Hydroxy-2-methyl-phenyl)-propionic acid methyl ester (0.28 g, 1.44 mmol) and 1,1′-(azodicarbonyl)-dipiperidine (0.54 g, 2.16 mmol) in 15 mL toluene is added tributylphosphine (0.5 mL, 2.16 mmol). After 1 hr the volatiles are removed and the crude ester purified by flash column chromatography (10%–25%) ethyl acetate/hexane to provide 0.34 g (45%) of 3-(2-Methyl-4-{1-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-2-phenyl-ethoxy}-phenyl)-propionic acid methyl ester as the racemate. The ester is separated by HPLC utilizing a chiral column with ethanol as the eluent. This enatiomerically pure ester (0.097 g, 0.18 mmol) is hydrolyzed in the usual manner 3 eq. 1N LiOH in 0.5 mL 3:2:1 solution of THF:MeOH:H2O to provide 0.09 g (93%) of the title compound. MS (M++1) 510.

reactant | 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-2-phenyl-ethanone | 3.5 mmol, 1.2 g | CC=1N=C(OC1C(CC1=CC=CC=C1)=O)C1=CC=C(C=C1)C(F)(F)F | C19H14F3NO2
reactant | LiBH4 | 3.50 mmol, 0.086 g | [Li+].[BH4-]
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | MeOH | 50 mL | CO | CH4O
product | 1-[4-Methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-yl]-2-phenyl-ethanol | 1.1 g | CC=1N=C(OC1C(CC1=CC=CC=C1)O)C1=CC=C(C=C1)C(F)(F)F | C19H16F3NO2
